* Generated by electronics_design from a KiCad schematic
* KICAD_SINGLETON_LABEL q1
* KICAD_SINGLETON_LABEL q2
* KICAD_SINGLETON_LABEL q3
.include "state-machine-3b-count.lib"
Vupd1 ud 0 PULSE(0 5 1u 1u 1u 500u 1m)
XU1 clk ud q1 q2 q3 3bcounter
Vclk1 clk 0 PULSE(0 5 1u 1u 1u 10u 24u)
.tran 1
.backanno
.end
